US04558043
A mixture of 8 g (49.6 mmole) of 6-amino-3,5-dimethylbenzofuran, 23 g (0.1 mole) of 1,5-dibromopentane, 12.9 g (0.1 mole) of N-ethyldiisopropylamine and 60 ml of ethanol is boiled under reflux for 18 hours. The residue obtained after concentration by evaporation in vacuo is taken up in methylene chloride and washed twice with dilute sodium bicarbonate solution. The organic phase is dried, concentrated by evaporation and the crude product is chromatographed with petroleum ether/methylene chloride over silica gel. Distillation of the pure fractions in a bulb tube (130°/10-1 torr) yields 3,5-dimethyl-6-piperidinobenzofuran having a melting point of 64°-66°.

reactant | 6-amino-3,5-dimethylbenzofuran | 49.6 mmole, 8 g | NC1=CC2=C(C(=CO2)C)C=C1C | C10H11NO
reactant | 1,5-dibromopentane | 0.1 mole, 23 g | BrCCCCCBr | C5H10Br2
reactant | N-ethyldiisopropylamine | 0.1 mole, 12.9 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 3,5-dimethyl-6-piperidinobenzofuran | CC1=COC2=C1C=C(C(=C2)N2CCCCC2)C | C15H19NO
